US06962935B2
Part A. Preparation of 2-(methylamino)-4-(3-cyanophenyl)-5-carboethoxythiazole.
To a solution of ethyl 2-bromo-3-(3-cyanophenyl)-3-oxopropionate (0.65 g, 2.2 mmol) in 20 mL of tetrahydrofuran was added N-methylthiourea (0.20 g, 2.2 mmol). The resulting mixture was stirred at 65° C. for 16 h. The reaction was allowed to cool and the solvent was evaporated in vacuo. The residue was taken up in ethyl acetate, washed with saturated aq NaHCO3 and brine, dried (MgSO4) and concentrated in vacuo to yield a solid. Trituration with hexanes/ethyl ether left the title compound as an off-white solid (0.46 g, 73%). MS (ESI) 288.3 (M+H)+.

reactant | ethyl 2-bromo-3-(3-cyanophenyl)-3-oxopropionate | 2.2 mmol, 0.65 g | BrC(C(=O)OCC)C(=O)C1=CC(=CC=C1)C#N | C12H10BrNO3
reactant | N-methylthiourea | 2.2 mmol, 0.20 g | CNC(=S)N | C2H6N2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-(methylamino)-4-(3-cyanophenyl)-5-carboethoxythiazole | 0.46 g, 73% | CNC=1SC(=C(N1)C1=CC(=CC=C1)C#N)C(=O)OCC | C14H13N3O2S
